MOS charge pump

vin 4 0 dc 0v pulse 0 5 15ns 5ns 5ns 50ns 100ns
vdd 5 6 dc 0v pulse 0 5 25ns 5ns 5ns 50ns 100ns
vbb 0 7 dc 0v pulse 0 5  0ns 5ns 5ns 50ns 100ns
rd 6 2 10k
m1 5 4 3 7 mmod w=100um
vs 3 2 0
vc 2 1 0
c2 1 0 10pf

.ic v(3)=1.0
.tran 2ns 200ns
.options acct bypass=1
.print tran v(1) v(2)

.model mmod numos
+ x.mesh n=1 l=0
+ x.mesh n=3 l=0.4
+ x.mesh n=7 l=0.6
+ x.mesh n=15 l=1.4
+ x.mesh n=19 l=1.6
+ x.mesh n=21 l=2.0
+
+ y.mesh n=1 l=0
+ y.mesh n=4 l=0.015
+ y.mesh n=8 l=0.05
+ y.mesh n=12 l=0.25
+ y.mesh n=14 l=0.35
+ y.mesh n=17 l=0.5
+ y.mesh n=21 l=1.0
+
+ region num=1 material=1 y.l=0.015
+ material num=1 silicon
+ mobility material=1 concmod=sg fieldmod=sg
+ mobility material=1 elec major
+ mobility material=1 elec minor
+ mobility material=1 hole major
+ mobility material=1 hole minor
+
+ region num=2 material=2 y.h=0.015 x.l=0.5 x.h=1.5
+ material num=2 oxide
+
+ elec num=1 ix.l=18 ix.h=21   iy.l=4  iy.h=4
+ elec num=2 ix.l=5  ix.h=17   iy.l=1  iy.h=1
+ elec num=3 ix.l=1  ix.h=4    iy.l=4  iy.h=4
+ elec num=4 ix.l=1  ix.h=21   iy.l=21 iy.h=21
+
+ doping unif n.type conc=1e18   x.l=0.0 x.h=0.5 y.l=0.015 y.h=0.25
+ doping unif n.type conc=1e18   x.l=1.5 x.h=2.0 y.l=0.015 y.h=0.25
+ doping unif p.type conc=1e15   x.l=0.0 x.h=2.0 y.l=0.015 y.h=1.0
+ doping unif p.type conc=1.3e17 x.l=0.5 x.h=1.5 y.l=0.015 y.h=0.05
+
+ models concmob fieldmob
+ method onec

.end
